US05576340
Methyl 3-(2-oxopropoxy)phenylacetate
Following a procedure similar to that described in Preparation 3, but using 2.8 g of methyl 3-hydroxyphenylacetate, 3.5 g of bromoacetone, 4 g of potassium carbonate and 30 ml of dimethylformamide, the title compound was obtained having an Rf=0.41 (thin layer chromatography over silica gel, using a 2:5 by volume mixture of ethyl acetate and hexane as the developing solvent).

reactant | methyl 3-hydroxyphenylacetate | 2.8 g | OC=1C=C(C=CC1)CC(=O)OC | C9H10O3
reactant | bromoacetone | 3.5 g | BrCC(C)=O | C3H5BrO
reactant | potassium carbonate | 4 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | Methyl 3-(2-oxopropoxy)phenylacetate | O=C(COC=1C=C(C=CC1)CC(=O)OC)C | C12H14O4
